US04478838
(a) 1-(3,4,5-Trimethoxycinnamoyl)-4-[1-(propylaminocarbonyl)ethyl]piperazine
20.00 g of 3,4,5-trimethoxycinnamoyl chloride and 11.77 ml of triethylamine are added with ice cooling to a solution of 12.90 g of 1-[1-(propylaminocarbonyl)ethyl]piperazine in 200 ml of chloroform and stirred at room temperature for one-half an hour.

reactant | 3,4,5-trimethoxycinnamoyl chloride | 20.00 g | COC=1C=C(C=CC(=O)Cl)C=C(C1OC)OC | C12H13ClO4
reactant | triethylamine | 11.77 ml | C(C)N(CC)CC | C6H15N
reactant | 1-[1-(propylaminocarbonyl)ethyl]piperazine | 12.90 g | C(CC)NC(=O)C(C)N1CCNCC1 | C10H21N3O
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(3,4,5-Trimethoxycinnamoyl)-4-[1-(propylaminocarbonyl)ethyl]piperazine | COC=1C=C(C=CC(=O)N2CCN(CC2)C(C)C(=O)NCCC)C=C(C1OC)OC | C22H33N3O5
